US07772366B2
N—(N-Acetyl-tyrosinyl-valinyl-(4(R)-allyloxy prolinyl))-3(S)-amino-4-oxobutanoic acid (85).
N-Acetyl-tyrosinyl-valinyl-(4(R)-allyloxyproline) methyl ester. 4(R)-Allyloxyproline methyl ester hydrochloride (1.05 g, 4.75 mmol) and N-acetyl-Tyr-Val-OH (1.68 g, 5.21 mmol) were dissolved in 10 ml of a 1:1 mixture of dichloromethane and dimethylformamide and cooled to 0° C. Diisopropylethylamine (1 ml, 5.93 mmol) was added to the cooled mixture followed by the addition of N-hydroxybenzotriazole (0.769 g, 5.69 mmol) and 1-(3-Dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (1.18 g, 6.2 mmol). After stirring for 2 hours, the mixture was warmed to room temperature and stirred for 16 hours. The reaction was poured into 150 ml of ethyl acetate and washed with 50 ml each of water, 10% sodium hydrogen sulfate, and 10% sodium bicarbonate. The organic layer was dried over sodium sulfate, filtered, and evaporated to give a light yellow solid. This was purified by flash chromatography eluting with dichloromethane/methanol/pyridine (100:3:0.5) to give 780 mg of the title compound. 1H NMR (CD3OD) δ 7.02-6.96 (2H, d), 6.67-6.63 (2H, d), 5.95-5.85 (1H, m), 5.34-5.27 (1H, d), 5.16-5.13 (1H, d), 4.53-4.38 (3H, m), 4.28-4.22 (1H, m), 4.12-3.97 (3H, m), 3.82-3.73 (1H, m), 3.72 (3H, s), 3.04-2.88 (2H, m), 2.85-2.72 (2H, m), 2.45-2.34 (1H, m), 2.08-1.95 (2H, m), 1.92 (3H, s), 1.00-0.92 (6H, 2×d).

reactant | N-Acetyl-tyrosinyl-valinyl-(4(R)-allyloxyproline) methyl ester | COC([C@H]1N(C[C@@H](C1)OCC=C)C([C@@H](NC([C@@H](NC(C)=O)CC1=CC=C(C=C1)O)=O)C(C)C)=O)=O | C25H35N3O7
reactant | 4(R)-Allyloxyproline methyl ester hydrochloride | 4.75 mmol, 1.05 g | Cl.COC([C@H]1NC[C@@H](C1)OCC=C)=O
reactant | N-acetyl-Tyr-Val-OH | 5.21 mmol, 1.68 g | N([C@@H](CC1=CC=C(C=C1)O)C(=O)N[C@@H](C(C)C)C(=O)O)C(=O)C | C16H22N2O5
reactant | Diisopropylethylamine | 5.93 mmol, 1 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | N-hydroxybenzotriazole | 5.69 mmol, 0.769 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-(3-Dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 6.2 mmol, 1.18 g | Cl.CN(CCCN=C=NCC)C
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | dimethylformamide | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 150 ml | C(C)(=O)OCC | C4H8O2
product | N—(N-Acetyl-tyrosinyl-valinyl-(4(R)-allyloxy prolinyl))-3(S)-amino-4-oxobutanoic acid | 780 mg | C(C)(=O)N[C@@H](CC1=CC=C(C=C1)O)C(=O)N[C@@H](C(C)C)C(=O)N1[C@H](C(=O)N[C@@H](CC(=O)O)C=O)C[C@H](C1)OCC=C | C28H38N4O9
